US04304775
Haginiwa et al., [Yakugaku Zasshi 98 (1), 67-71 (1978); Chem. Abstrs. 88, 170,096v (1978)] reacted 3(2H)-pyridazinone with pyridine 1-oxide and platinized Pd-C catalyst to produce 6-(2-pyridinyl)-3(2H)-pyridazinone.

reactant | 3(2H)-pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
reactant | pyridine 1-oxide | [N+]1(=CC=CC=C1)[O-] | C5H5NO
catalyst | Pd-C | [Pd] | Pd
product | 6-(2-pyridinyl)-3(2H)-pyridazinone | N1=C(C=CC=C1)C=1C=CC(NN1)=O | C9H7N3O
